US05990142
20A 2'-Hydroxy-3'-iodoacetophenone
A suspension of 3'-amino-2'-hydroxyacetophenone hydrobromide (2.5 g, 10.8 mmol) in water (10 ml) at 0° C. was added successively with concentrated sulfuric acid (0.70 ml) and sodium nitrite (0.783 g, 11.3 mmol) dissolved in water (1.5 ml) and the mixture was left under stirring at 0° C. for 20 min. After that, concentrated sulfuric acid (0.2 ml) was added and the resulting mixture was poured onto a solution of potassium iodide (2.2 g) in water (2 ml) cooled at 0° C. Copper powder (11 mg) was added in a few minutes and the mixture was left at 75° C. for 2 h. After this time the mixture was left to cool at room temperature, then extracted with chloroform (3×50 ml), the organic phase was washed with a 5% sodium thiosulfate solution, dried and the solvent was evaporated off under reduced pressure. The resulting residue was purified by column chromatography eluting with petroleum ether:chloroform, 6:4, thereby recovering 1.95 g of title compound (69% yield).

reactant | 3'-amino-2'-hydroxyacetophenone hydrobromide | 10.8 mmol, 2.5 g | Br.NC=1C(=C(C=CC1)C(C)=O)O
reactant | sulfuric acid | 0.70 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 11.3 mmol, 0.783 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 2.2 g | [I-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
solvent | water | 2 ml | O | H2O
catalyst | Copper | 11 mg | [Cu] | Cu
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2'-Hydroxy-3'-iodoacetophenone | 1.95 g, 69% yield | OC1=C(C=CC=C1I)C(C)=O | C8H7IO2
